US09145441B2
A solution of (E)-2,2-dimethyl-4-{2-[(R)-1-((R)-2-methyl-propane-2-sulfinylamino)-ethyl]-quinolin-7-yl}-but-3-enoic acid methyl ester (700 mg, 1.74 mmol) in methanol (20 mL) was treated with hydrochloric acid in 1,4-dioxane (4 M, 10 mL). After stirring at room temperature for 2 h, the volatiles were removed in vacuo. The residual solvent was azeotroped off with toluene (3×15 mL) to give crude (E)-4-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoic acid methyl ester hydrochloride.

reactant | (E)-2,2-dimethyl-4-{2-[(R)-1-((R)-2-methyl-propane-2-sulfinylamino)-ethyl]-quinolin-7-yl}-but-3-enoic acid methyl ester | 1.74 mmol, 700 mg | COC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)N[S@](=O)C(C)(C)C)(C)C)=O | C22H30N2O3S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | 1,4-dioxane | 4 M, 10 mL | O1CCOCC1 | C4H8O2
product | (E)-4-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoic acid methyl ester hydrochloride | Cl.COC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)N)(C)C)=O | InChI=1S/C18H22N2O2.ClH/c1-12(19)15-8-7-14-6-5-13(11-16(14)20-15)9-10-18(2,3)17(21)22-4;/h5-12H,19H2,1-4H3;1H/b10-9+;/t12-;/m1./s1
